US07141567B2
CC. (8R,9R)-10-Acetyl-2-methyl-9-phenyl-8-pivaloyloxy-7.8.9.10-tetrahydroimidazo[1.2-h][1.7]naphthyridin-7-one
To a of 0° C. cooled solution of 7.00 g (18.5 mmol) (8R,9R)-2-methyl-9-phenyl-8-pivaloyloxy-7.8.9.10-tetrahydroimidazo[1.2-h][1.7]naphthyridin-7-one in toluene (70 ml) is added 4.10 ml (55.5 mmol) acetyl chloride and 7.70 ml (55.5 mmol) triethylamine and the reaction mixture is stirred for 1 h at 0° C. Afterwards further 4.10 ml (55.5 mmol) acetyl chloride and 7.70 ml (55.5 mmol) triethylamine are added to the reaction mixture and it is warmed up to 25° C. and stirred at this temperature for 1 h. Subsequently the reaction is quenched by adding of saturated aqueous ammonium chloride solution. This mixture is extracted twice with dichloromethane. The combined organic layers are washed with brine, dried over sodium sulphate and evaporated in vacuo. The crude product is crystallised from diethyl ether to provide 5.4 g (12.7 mmol/70%) of the title compound as a colourless solid with a melting point of 168–169° C. (diethyl ether).

reactant | (8R,9R)-2-methyl-9-phenyl-8-pivaloyloxy-7.8.9.10-tetrahydroimidazo[1.2-h][1.7]naphthyridin-7-one | 18.5 mmol, 7.00 g | CC=1N=C2N(C=CC=3C([C@@H]([C@H](NC23)C2=CC=CC=C2)OC(C(C)(C)C)=O)=O)C1 | C22H23N3O3
reactant | acetyl chloride | 55.5 mmol, 4.10 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 55.5 mmol, 7.70 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 55.5 mmol, 4.10 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 55.5 mmol, 7.70 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | (8R,9R)-10-Acetyl-2-methyl-9-phenyl-8-pivaloyloxy-7.8.9.10-tetrahydroimidazo[1.2-h][1.7]naphthyridin-7-one | C(C)(=O)N1[C@@H]([C@H](C(C=2C=CN3C(C12)=NC(=C3)C)=O)OC(C(C)(C)C)=O)C3=CC=CC=C3 | C24H25N3O4
